US04489093
Using the procedure of Step B of Example 43, (1R,cis,Z) 2,2-dimethyl-3-[2-bromo-3-oxo-3-(1-methylpropoxy)-1-propenyl]-cyclopropane carboxylic acid and (S)α-cyano-3-phenoxybenzyl alcohol were reacted to obtain (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[2-bromo-3-oxo-3-(1-methylpropoxy)-1-propenyl]-cyclopropanecarboxylate with a melting point of 76° C. and a specific rotation of [α]D20 =+21.5°±2° (c=0.7% in chloroform).

reactant | (1R,cis,Z) 2,2-dimethyl-3-[2-bromo-3-oxo-3-(1-methylpropoxy)-1-propenyl]-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1\C=C(\C(OC(CC)C)=O)/Br)C(=O)O)C | C13H19BrO4
reactant | (S)α-cyano-3-phenoxybenzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[2-bromo-3-oxo-3-(1-methylpropoxy)-1-propenyl]-cyclopropanecarboxylate | CC1([C@@H]([C@@H]1\C=C(\C(OC(CC)C)=O)/Br)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H28BrNO5
